US04489003
A mixture of 3.0 g (8.2 mmol) of 1-[[(S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl]carbonyl]imidazole, 1.59 g (11.5 mmol) of powdered potassium carbonate, 1.48 g (11.5 mmol) of 3-chlorophenol and 20 ml of dry dimethylformamide is stirred at room temperature for 5 days, then poured into 60 ml of water and extracted four times with methylene chloride. The organic extracts are washed once with saturated sodium chloride solution, dried over magnesium sulphate and evaporated. The residue obtained is chromatographed on silica gel while eluting with ethyl acetate and then crystallized from ethanol. There is obtained m-chlorophenyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 194°-195°.

reactant | 1-[[(S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl]carbonyl]imidazole | 8.2 mmol, 3.0 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)N3C=NC=C3)CCC1)=O | C18H14ClN5O2
reactant | potassium carbonate | 11.5 mmol, 1.59 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chlorophenol | 11.5 mmol, 1.48 g | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 60 ml | O | H2O
product | m-chlorophenyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC3=CC(=CC=C3)Cl)CCC1)=O | C21H15Cl2N3O3
